US07855193B2
4-(5-(piperidin-1-yl)benzofuran-2-yl)benzaldehyde (Step 3 of Scheme 3)
A mixture of 5-(piperidin-1-yl)benzofuran-2-ylboronic acid (90 mg, 0.367 mmol), 4-bromobenzaldehyde (62 mg, 0.330 mmol), triethylamine (1.0 mL, 7.3 mmol) and bis(triphenylphosphine)palladium(II)chloride (12.8 mg, 0.02 mmol) in ethanol (9 mL) was irradiated in a microwave instrument at 100° C. for 20 min. The reaction mixture was cooled, and the solvent was removed. The residue was purification by silica gel chromatography on ISCO system yielding the title compound (31 mg, 28% yield). ESI-MS: 306.4 (M+H)+, 1H NMR (400 MHz, CDCl3) δ 10.02 (s, 1H), 7.95 (dd, 4H), 7.42 (d, 1H), 7.11 (m, 2H), 7.07 (dd, 1H), 3.13 (t, 4H), 1.78-1.74 (m, 4H), 1.62-1.56 (m, 2H).

reactant | 5-(piperidin-1-yl)benzofuran-2-ylboronic acid | 0.367 mmol, 90 mg | N1(CCCCC1)C=1C=CC2=C(C=C(O2)B(O)O)C1 | C13H16BNO3
reactant | 4-bromobenzaldehyde | 0.330 mmol, 62 mg | BrC1=CC=C(C=O)C=C1 | C7H5BrO
reactant | triethylamine | 7.3 mmol, 1.0 mL | C(C)N(CC)CC | C6H15N
solvent | ethanol | 9 mL | C(C)O | C2H6O
catalyst | bis(triphenylphosphine)palladium(II)chloride | 0.02 mmol, 12.8 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
product | 4-(5-(piperidin-1-yl)benzofuran-2-yl)benzaldehyde | 31 mg, 28% yield | N1(CCCCC1)C=1C=CC2=C(C=C(O2)C2=CC=C(C=O)C=C2)C1 | C20H19NO2
